US05559158
(2S,3S,5S)-2-(N,N-dibenzylamino-3-hydroxy-5-(t-butyloxycarbonylamino)-1,6-diphenylhexane
To a stirred solution of (2S,3S,5S)-2-(N,N-dibenzylamino)-3-hydroxy-5-amino-1,6-diphenylhexane (10.0 g, 21.6 mmol)in tetrahydrofuran (200 mL) was added potasium carbonate (6.0 g, 43.2 mmol) in H2O (200 mL). To this solution was added di-t-butyldicarbonate (5.64 g, 25.9 mmol) in tetrahydrofuran (10 mL). The solution which resulted was stirred at room temperature for 3 hours. N,N-dimethylethylenediamine (1 mL, 8.6 mmol) was added and the reaction mixture was stirred at room temperature for an additional hour. Ethyl acetate (400 mL) was added and the organic layer was separated and washed with 5% KH2PO4 (2×200 mL), water (1×200 mL), saturated NaHCO3 (2×200 mL) and water (1×200 mL). The organic solution was then dried over sodium sulfate and concentrated under reduced pressure to provide the desired product as a light yellow oil. 300 MHz 1H NMR (CDCl3) δ1.40 (s,9H), 1.58 (s, 2H), 2.45-2.85 (m, 4H), 3.05 (m, 1H), 3.38 (d, 2H), 3.6 (m, 1H), 3.79 (m, 1H), 3.87 (d, 2H), 4.35 (S, 1H), 4.85 (s, broad, 1H), 7.0-7.38 (m, 20H).

reactant | (2S,3S,5S)-2-(N,N-dibenzylamino)-3-hydroxy-5-amino-1,6-diphenylhexane | 21.6 mmol, 10.0 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)[C@H](C[C@H](CC1=CC=CC=C1)N)O | C32H36N2O
reactant | potasium carbonate | 43.2 mmol, 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyldicarbonate | 25.9 mmol, 5.64 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-dimethylethylenediamine | 8.6 mmol, 1 mL | CN(CCN)C | C4H12N2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | N,N-dibenzylamino-3-hydroxy-5-(t-butyloxycarbonylamino)-1,6-diphenylhexane | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)C(CC(CC(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)C1=CC=CC=C1 | C37H44N2O3
